US07262196B2
SO2Cl2 (9.8 mL, 122.0 mmol) was added slowly at 0° C. to dicyclopropyldisulfide (17.0 g, 116.2 mmol). The mixture was stirred at 20° C. for 2 h, before being diluted with anhydrous PhMe (100 mL) to give a PhMe solution of cyclopropanesulfenyl chloride. In a separate vessel, n-BuLi (153 mL of a 1.6M solution in hexanes, 244.8 mmol) was added to a stirred solution of 2,5-dibromopyridine (55.1 g, 232.4 mmol) in anhydrous PhMe (1L) at −78° C. After 3 h at −78° C., the abovementioned cyclopropanesulfenyl chloride solution was added slowly to the mixture. After 1 h, the mixture was quenched with saturated aqueous NH4Cl (1L) at −20° C., before being stirred at 20° C. for 16 h. The organic layer was separated, then the aqueous phase was extracted with Et2O (3×500 mL). The organic extracts were combined, dried (MgSO4), filtered, concentrated, and purified by flash column chromatography (IH-Et2O, 98.5:1.5) to furnish 5-bromo-2-cyclopropylsulfanylpyridine: m/z (ES+)=232.0 [M+H]+. Bromine-lithium exchange on this compound (22.0 g, 95.6 mmol) followed by reaction with diethyl oxalate, as described in Step 1 of Preparation 14, gave ethyl (6-cyclopropylsulfanylpyridin-3-yl)oxoacetate: m/z (ES+)=252.2 [M+H]+. Reaction of this oxoester (11.09 g, 44.1 mmol) with cyclopentylmethyltriphenylphosphonium iodide (33.00 g, 75.0 mmol), employing the protocol outlined in Step 3 of Preparation 14, provided ethyl 3-cyclopentyl-2-(6-cyclopropylsulfanylpyridin-3-yl)acrylate as a ca. 2:1 mixture of (E)- and (Z)-isomers: m/z (ES+)=318.2 [M+H]+. Using a similar procedure to that described in Step 4 of Preparation 14, this ester (13.21 g, 41.6 mmol) was hydrolysed to give the title compound: m/z (ES+)=290.3 [M+H]+.

reactant | n-BuLi | [Li]CCCC
reactant | 2,5-dibromopyridine | 232.4 mmol, 55.1 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | cyclopropanesulfenyl chloride | C1(CC1)SCl | C3H5ClS
solvent | PhMe | C1(=CC=CC=C1)C | C7H8
product | 5-bromo-2-cyclopropylsulfanylpyridine | BrC=1C=CC(=NC1)SC1CC1 | C8H8BrNS
